US07741327B2
To a solution of methyl magnesium bromide (3 M, 12 mL, 36.06 mmol) cooled to 0° C. was added tetrahydrofuran (10 mL) and (3-hydroxy-phenyl)-acetic acid methyl ester (1 g, 6.01 mmol) as a solution in tetrahydrofuran (5 mL). The resulting mixture was warmed to room temperature stirred for 30 min and then poured carefully into a biphasic mixture of ethyl acetate and water. The water layer was made acidic (pH=1) with 1N aqueous hydrochloric acid and extracted twice with ethyl acetate. The combined organic phases were dried over sodium sulfate, filtered and concentrated in vacuo which afforded 3-(2-hydroxy-2-methyl-propyl)-phenol (1 g, 100%) as a white solid.

reactant | methyl magnesium bromide | 36.06 mmol, 3 M, 12 mL | C[Mg]Br
reactant | (3-hydroxy-phenyl)-acetic acid methyl ester | 6.01 mmol, 1 g | COC(CC1=CC(=CC=C1)O)=O | C9H10O3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 3-(2-hydroxy-2-methyl-propyl)-phenol | 1 g, 100% | OC(CC=1C=C(C=CC1)O)(C)C | C10H14O2
